US08105747B2
1.3 g of magnesium, 10.0 g of 1-bromo-4,4,4-trifluorobutane and 20 g of tetrahydrofuran were charged into a four-necked flask equipped with a nitrogen feeding tube, a reflux condenser, a dropping funnel and a thermometer, and a Grignard reagent was prepared by a conventional method. Then, a mixture of 5.0 g of 3-pentanone and 4 g of tetrahydrofuran was dropwise added to the obtained Grignard reagent at a temperature of 25 to 35° C. over 30 minutes, followed by stirring at the same temperature for 1 hour. The reaction mixture was treated by a conventional method, and the resulting organic phase was washed with water, followed by drying with anhydrous magnesium sulfate. Thereafter, the resultant was concentrated under reduced pressure, thereby obtaining 7.9 g of 7,7,7-trifluoro-3-ethyl-3-heptanol in the form of a pale yellow oily matter.

reactant | magnesium | 1.3 g | [Mg] | Mg
reactant | 1-bromo-4,4,4-trifluorobutane | 10.0 g | BrCCCC(F)(F)F | C4H6BrF3
reactant | 3-pentanone | 5.0 g | CCC(CC)=O | C5H10O
solvent | tetrahydrofuran | 4 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 g | O1CCCC1 | C4H8O
product | 7,7,7-trifluoro-3-ethyl-3-heptanol | 7.9 g | FC(CCCC(CC)(O)CC)(F)F | C9H17F3O
